US04976770
n-Butyl 12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate
Into a 500 ml round bottom flask fitted with a stir bar and a Dean-Stark apparatus is placed 111.4 grams of crude (87 percent) 12H-dibenzo[d,g][1,3]dioxocin-6-carboxylic acid in 300 ml of 2:1 n-butanol:toluene. The mixture is stirred at room temperature for 15 minutes to effect the complete dissolution of the acid. Concentrated sulfuric acid (4.0 ml) is then added and the reaction mixture is heated to reflux Immediately upon attaining reflux, an aqueous layer begins to separate out in the Dean-Stark apparatus. After 2 hours at reflux, no additional water formation is observed and the reaction is cooled to room temperature with a cold water bath. A total of 10 ml of water is collected, the majority of this water being formed in the initial 30 minutes of reflux. The cooled reddish-yellow reaction solution is diluted with 200 ml of toluene, washed with 300 ml of water, 300 ml of saturated aqueous NaHCO3, ml of brine and then concentrated under reduced pressure on a rota-vap. Toluene (200 ml) is added to the residue and the solution again is concentrated under reduced pressure This evaporation with toluene facilitates the removal of n-butanol. The residue obtained is taken up into 300 ml of 2:1 toluene:ether and washed with 200 ml of 5 percent NaOH. Brine, 50 ml, is added to break up the emulsion that forms with the 5 percent NaOH wash. The organic solution is then washed with 200 ml of brine, dried over MgSO4 and concentrated under reduced pressure to afford a thick light reddish-yellow liquid (130 grams). This liquid is then subjected to vacuum distillation, using a Claisen adapter as the distillation head and an oil bath for heating. Care is taken during the course of the distillation to avoid solidification of the product in the distillation condenser. A forerun (11 grams) is collected having a b.p. 70° C. to 170° C. at 0.25 mm. Pure n-butyl ester, 84.3 grams (62 percent), is then collected from 171° C. to 180° C. at 0.25 mm as a thick clear liquid which readily solidifies on cooling to afford a white solid: mp 63°-66° C. (softening at 60° C.); greater than 99 percent purity as determined by L.C. bp 189°-195° C./0.4mm; IR (neat) 3.45, 5.75, 6.95, 8.35, 10.4 cm-1 ; H NRM (60 MHz, CDCl3) δ 0.9-1.9 (m, 7, OCH2CH2CH2CH3), 3.42 and 4.6 (2d, 2, CH2), 4.35, (t, 2, OCH2CH2CH2CH 3), 5.05 (s, 1, CH), 7.0-7.4 (m, 8, Ar--H)).

reactant | 12H-dibenzo[d,g][1,3]dioxocin-6-carboxylic acid | C1=CC=CC=2OC(OC3=C(CC21)C=CC=C3)C(=O)O | C15H12O4
reactant | sulfuric acid | 4.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | n-butanol | 300 ml | C(CCC)O | C4H10O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | n-Butyl 12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate | 130 grams | C1=CC=CC=2OC(OC3=C(CC21)C=CC=C3)C(=O)OCCCC | C19H20O4
